US06951879B2
In analogy to example 3.1, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and N-(2-methoxyethyl)ethylamine were converted to yield (without extraction) [3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-ethyl-(2-methoxy-ethyl)-amine hydrobromide as colorless oil, MS: 449(MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | N-(2-methoxyethyl)ethylamine | COCCNCC | C5H13NO
product | [3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-ethyl-(2-methoxy-ethyl)-amine hydrobromide | Br.BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN(CCOC)CC | InChI=1S/C21H25BrN2O2S.BrH/c1-3-24(12-14-25-2)11-4-13-26-18-9-10-19-20(15-18)27-23-21(19)16-5-7-17(22)8-6-16;/h5-10,15H,3-4,11-14H2,1-2H3;1H
